US08604069B2
4-(2-Chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate sodium
4-(2-Chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoic acid (28.9 mg) and ethanol (1 mL) were mixed. To the mixture was added aqueous 1 N sodium hydroxide (0.0577 mL) at ice temperature. The mixture was stirred at ice temperature 20 min., and then the solvent was evaporated to give the title compound (30.4 mg) as a crude product.

reactant | 4-(2-Chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoic acid | 28.9 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)O)C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | C28H37ClN2O4
reactant | sodium hydroxide | 1 N, 0.0577 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(2-Chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate sodium | 30.4 mg | [Na+].ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)[O-])C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | InChI=1S/C28H37ClN2O4.Na/c1-4-17(5-2)11-18-12-21(13-18)28-26(19-7-8-19)27(31-35-28)20(15-25(33)34)14-24(32)30-23-9-6-16(3)10-22(23)29;/h6,9-10,17-21H,4-5,7-8,11-15H2,1-3H3,(H,30,32)(H,33,34);/q;+1/p-1
